US07456302B2
A concentrated residue of (3R,4S)-1-(tert-butoxycarbonyl)-4-(3-fluoro-2-pyridyl)-3-triisopropylsilyloxy-2-azetidinone (92.7 mmol) was dissolved in diisopropyl ether (410 mL), and 4-bromothiophenol (18.4 g, 97.3 mmol) and potassium carbonate (14.7 g) were added thereto and stirred at room temperature for about 30 minutes. The disappearance of (3R,4S)-1-(tert-butoxycarbonyl)-4-(3-fluoro-2-pyridyl)-3-triisopropylsilyloxy-2-azetidinone was confirmed, and water (290 mL) was added to it for liquid-liquid separation. The organic layer was separated, washed with saturated saline water (290 mL), and dried over magnesium sulfate. The insoluble matter was removed through filtration, and the filtrate was concentrated under reduced pressure to obtain a residue of S-(4-bromophenyl) (2R,3S)-3-[(tert-butoxycarbonyl)amino]-3-(3-fluoro-2-pyridinyl)-2-[(triisopropylsilyl)oxy]propanethioate.

reactant | (3R,4S)-1-(tert-butoxycarbonyl)-4-(3-fluoro-2-pyridyl)-3-triisopropylsilyloxy-2-azetidinone | 92.7 mmol | C(C)(C)(C)OC(=O)N1C([C@@H]([C@@H]1C1=NC=CC=C1F)O[Si](C(C)C)(C(C)C)C(C)C)=O | C22H35FN2O4Si
reactant | 4-bromothiophenol | 97.3 mmol, 18.4 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | potassium carbonate | 14.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 290 mL | O | H2O
solvent | diisopropyl ether | 410 mL | C(C)(C)OC(C)C | C6H14O
product | S-(4-bromophenyl) (2R,3S)-3-[(tert-butoxycarbonyl)amino]-3-(3-fluoro-2-pyridinyl)-2-[(triisopropylsilyl)oxy]propanethioate | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(SC1=CC=C(C=C1)Br)=O)O[Si](C(C)C)(C(C)C)C(C)C)C1=NC=CC=C1F | C28H40BrFN2O4SSi
